US06589950B1
Cyclobutylamine (20 g, 0.28M) and N,N-diisopropylethylamine (50.4 ml, 0.28M) is added to a suspension of 2,6-dichloropurine (48.4 g, 0.25M) in n-butanol (480 ml). The mixture is stirred at 60° C. for 20 hours. The mnixture is cooled and the precipitate isolated by filtration, washed with n-butanol and dried under vacuum to give 6cyclobutylamino-2-chloropurine;ES+ (M−1) 222.5; mp 237.8° C. dec.

reactant | Cyclobutylamine | 0.28M, 20 g | C1(CCC1)N | C4H9N
reactant | N,N-diisopropylethylamine | 0.28M, 50.4 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2,6-dichloropurine | 0.25M, 48.4 g | ClC1=NC(=C2NC=NC2=N1)Cl | C5H2Cl2N4
solvent | n-butanol | 480 ml | C(CCC)O | C4H10O
product | 6cyclobutylamino-2-chloropurine | C1(CCC1)NC1=C2NC=NC2=NC(=N1)Cl | C9H10ClN5
